US06593350B2
[8-Methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonat
Bis-acetonitrile (II) chloride (0.153 g, 0.60 mmole), 1,4-benzoquinone (0.64 g, 6.0 mmole) and lithium chloride (2.5 g, 60 mmole) were combined in 85 mL of tetrahydrofuran and the mixture stirred under argon for 5 minutes. A solution of (2R)-[8-allyl-7-amino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzene-sulfonate (2.2 g, 5.9 mmole) in 25 mL of tetrahydrofuran was added and the mixture stirred for 48 hours at room temperature. The mixture was then diluted with 300 mL of ethyl acetate and washed with 200 mL portions of 1 N aqueous HCl, saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated in vacuum. Column chromatography on silica gel with methylene chloride as eluant gave 1.1 g of the (R)-enantiomer of the title compound as a gray foam. 1H-NMR (CDCl3): doublet 7.8 δ (2 H); broad singlet 7.75 δ (1 H); doublet 7.3 δ (2 H); doublet 6.75 δ (1 H); doublet 6.63 δ (1 H); singlet 6.1 δ (1 H); multiplet 4.5 δ (1 H); multiplet 4.25 δ (3 H); doublet of doublets 4.07 δ (1 H); singlet 2.43 δ (3 H); singlet 2.40 δ (3 H).

reactant | 1,4-benzoquinone | 6.0 mmole, 0.64 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | lithium chloride | 60 mmole, 2.5 g | [Cl-].[Li+]
reactant | (2R)-[8-allyl-7-amino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzene-sulfonate | 5.9 mmole, 2.2 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)CC=C | C19H21NO5S
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | [8-Methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonat | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3C=C(NC3=CC2)C)O1 | C19H19NO5S
